US07943669B2
Step B: [4-(3-Cyclopentyloxy-5-phenylethynyl-phenylsulfanyl)-2-methyl-phenoxy]-acetic Acid
{[4-(3-Cyclopentyloxy-5-phenylethynyl-phenylsulfanyl)-2-methyl-phenoxy]-acetic acid ethyl ester (270 mg; 0.46 mmol) was dissolved in ethanol (10 mL), and aqueous 1 N sodium hydroxide (3 mL) was added. The reaction mixture was stirred for 16 h. acidified with 1 N aqueous hydrochloric acid and extracted with ethyl acetate. The organic phase was dried, evaporated to dryness and purified by prep HPLC (method B). Yield: 120 mg (69%). HPLC-MS: m/z: 459.1 (M+H)+; Rt: 2.86 min.

reactant | [4-(3-Cyclopentyloxy-5-phenylethynyl-phenylsulfanyl)-2-methyl-phenoxy]-acetic acid ethyl ester | 0.46 mmol, 270 mg | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)C#CC1=CC=CC=C1)OC1CCCC1)C)=O | C30H30O4S
reactant | sodium hydroxide | 1 N, 3 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | [4-(3-Cyclopentyloxy-5-phenylethynyl-phenylsulfanyl)-2-methyl-phenoxy]-acetic Acid | C1(CCCC1)OC=1C=C(C=C(C1)C#CC1=CC=CC=C1)SC1=CC(=C(OCC(=O)O)C=C1)C | C28H26O4S
